US04665075
To a stirred mixture of 7 parts of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,3-dihydro-7-nitro-2-thioxo-4(1H)-quinazolinone, 120 parts of a solution of potassium hydroxide in ethanol 5% and 10 parts of water were added dropwise 100 parts of a hydrogen peroxide solution 3% during a 10 minutes period. Upon completion, stirring was continued for 2.50 hours at room temperature. Then there were added 100 parts of water and the whole was neutralized with acetic acid. The precipitated product was filtered off and crystallized from a mixture of N,N-dimethylacetamide and water, yielding 4.8 parts of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-7-nitro-2,4(1H,3H)-quinazolinedione; mp. 238.1°-240.1° C. (23).

reactant | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,3-dihydro-7-nitro-2-thioxo-4(1H)-quinazolinone | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC3=CC(=CC=C3C2=O)[N+](=O)[O-])=S)C=C1 | C22H21FN4O4S
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrogen peroxide | OO | H2O2
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-7-nitro-2,4(1H,3H)-quinazolinedione | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC3=CC(=CC=C3C2=O)[N+](=O)[O-])=O)C=C1 | C22H21FN4O5
